US07772238B2
Ethyl 6-(2-anilino-2-oxoethyl)-1-benzothiophene-2-carboxylate.
[2-(ethoxycarbonyl)-1-benzothien-6-yl]acetic acid (0.2 g, 0.757 mmol), EDCI (0.22 g, 1.15 mmol) and HOBt (0.16 g, 1.18 mmol) were stirred in DMF (6 mL) for 10 minutes before adding aniline (85 mg, 0.913 mmol). The solution was stirred at room temperature for 3 days. The solvent was removed in vacuo and the residue partitioned between H2O-EtOAc. The aqueous phase was extracted with further portions of EtOAc. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Et2O was added and the resulting beige solid collected by filtration to give 0.17 g of product (66%). 1H NMR (DMSO-d6) δ 10.21 (s, 1H), 8.15 (s, 1H), 7.96 (s, 1H), 7.95 (d, J=8.4 Hz, 1H), 7.57 (d, J=7.8 Hz, 2H), 7.42 (dd, J=8.4, 1.2 Hz, 1H), 7.27 (t, J=7.2 Hz, 2H), 7.01 (t, J=7.2 Hz, 1H), 4.32 (q, J=7.2 Hz, 2H), 3.78 (s, 2H), 1.31 (t, J=7.2 Hz, 3H).

reactant | [2-(ethoxycarbonyl)-1-benzothien-6-yl]acetic acid | 0.757 mmol, 0.2 g | C(C)OC(=O)C=1SC2=C(C1)C=CC(=C2)CC(=O)O | C13H12O4S
reactant | EDCI | 1.15 mmol, 0.22 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.18 mmol, 0.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | aniline | 0.913 mmol, 85 mg | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-(2-anilino-2-oxoethyl)-1-benzothiophene-2-carboxylate | 0.17 g, 66% | N(C1=CC=CC=C1)C(CC1=CC2=C(C=C(S2)C(=O)OCC)C=C1)=O | C19H17NO3S
